US09384906B2
45.31 g (826 mmol) of propargyl alcohol and 0.94 g (4.1 mmol of tetraethyl titanate were added to 10.00 g (41.3 mmol) of ethyl 2-(diethoxyphosphoryl)-2-fluoroacetate, and heated under reflux at 100° C. for 10 hours. Subsequently, ethanol and propargyl alcohol were evaporated away under reduced pressure at a temperature falling within a range of from 70° C. to 100° C., taking 10 hours, and then the residue was cooled down to room temperature. 0.18 g of water was added to the reaction liquid, the formed precipitate was filtered away, and the filtrate was purified through silica gel column chromatography (ethyl acetate/hexane=1/1 for elution) to give 8.96 g (yield 86%) of the intended 2-propynyl 2-(diethoxyphosphoryl)-2-fluoroacetate. The obtained 2-propynyl 2-(diethoxyphosphoryl)-2-fluoroacetate was analyzed through 1H-NMR to confirm the structure thereof. The results are shown below.

reactant | propargyl alcohol | 826 mmol, 45.31 g | C(C#C)O | C3H4O
reactant | ethyl 2-(diethoxyphosphoryl)-2-fluoroacetate | 41.3 mmol, 10.00 g | C(C)OP(=O)(OCC)C(C(=O)OCC)F | C8H16FO5P
catalyst | tetraethyl titanate | 4.1 mmol | CCO.CCO.CCO.CCO.[Ti]
product | 2-propynyl 2-(diethoxyphosphoryl)-2-fluoroacetate | 8.96 g, yield 86% | C(C)OP(=O)(OCC)C(C(=O)OCC#C)F | C9H14FO5P
